US07888364B2
50 mg of 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 2,6-dimethylpiperazine via Procedure G. The product was purified on reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3,5-dimethylpiperazine-1-carbonyl)benzamide. MS (Q1) 483 (M)+.

reactant | 3-chloro-4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 50 mg | ClC=1C=C(C(=O)O)C=CC1C(NC1=CC(=C(C=C1)Cl)C1=NC=CC=C1)=O | C19H12Cl2N2O3
reactant | 2,6-dimethylpiperazine | CC1NC(CNC1)C | C6H14N2
product | 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3,5-dimethylpiperazine-1-carbonyl)benzamide | ClC1=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC(=C1)C(=O)N1CC(NC(C1)C)C | C25H24Cl2N4O2
